US07498460B2
Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-formylbenzoate
Preparation takes place in analogy to Example XIII from 1,1′-biphenyl-4-ylmethyl 4-(3-bromopropyl)phenyl ether and ethyl 3-formyl-4-hydroxybenzoate.

reactant | 1,1′-biphenyl-4-ylmethyl 4-(3-bromopropyl)phenyl ether | BrCCCC1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1 | C22H21BrO
reactant | ethyl 3-formyl-4-hydroxybenzoate | C(=O)C=1C=C(C(=O)OCC)C=CC1O | C10H10O4
product | Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-formylbenzoate | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OCC)C=C1)C=O)C1=CC=CC=C1 | C32H30O5
